US07547710B2
To methyl 3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinoline-6-carboxylate (0.10 g, 0.22 mmol) was added 4N solution of hydrogen chloride in 1,4-dioxane (5 ml), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, and the residue was crystallized from ethyl acetate to give methyl 3-(aminomethyl)-2-isobutyl-4-(4-methylphenyl)quinoline-6-carboxylate dihydrochloride (0.12 g, yield 92%) as white crystals.

reactant | methyl 3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinoline-6-carboxylate | 0.22 mmol, 0.10 g | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)C(=O)OC)CC(C)C | C28H34N2O4
reactant | hydrogen chloride | Cl | ClH
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | methyl 3-(aminomethyl)-2-isobutyl-4-(4-methylphenyl)quinoline-6-carboxylate dihydrochloride | 0.12 g, yield 92% | Cl.Cl.NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)C(=O)OC)CC(C)C | InChI=1S/C23H26N2O2.2ClH/c1-14(2)11-21-19(13-24)22(16-7-5-15(3)6-8-16)18-12-17(23(26)27-4)9-10-20(18)25-21;;/h5-10,12,14H,11,13,24H2,1-4H3;2*1H
